US09079866B2
5-{2′-[(6-Azetidin-1-ylpyrimidin-4-yl)oxy]-3-fluorobiphenyl-4-yl}pyrimidin-2-amine
The title compound was prepared in a manner similar to that described in Example 88 using 4-(azetidin-1-yl)-6-(2-bromophenoxy)pyrimidine and 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine. MS (ESI): mass calcd. for C23H19FN6O, 414.16; m/z found, 415.1 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.46 (d, J=1.5, 2H), 8.11 (d, J=0.9, 1H), 7.60-7.52 (m, 2H), 7.50-7.41 (m, 1H), 7.41-7.31 (m, 3H), 7.17 (dd, J=8.1, 1.2, 1H), 6.89 (s, 2H), 5.73 (d, J=0.9, 1H), 3.98 (t, J=7.5, 4H), 2.41-2.27 (m, 2H).

reactant | 4-(azetidin-1-yl)-6-(2-bromophenoxy)pyrimidine | N1(CCC1)C1=NC=NC(=C1)OC1=C(C=CC=C1)Br | C13H12BrN3O
reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
product | 5-{2′-[(6-Azetidin-1-ylpyrimidin-4-yl)oxy]-3-fluorobiphenyl-4-yl}pyrimidin-2-amine | N1(CCC1)C1=CC(=NC=N1)OC1=C(C=CC=C1)C1=CC(=C(C=C1)C=1C=NC(=NC1)N)F | C23H19FN6O
